US06143570
Preparation of 3,6-bis(n-octylamino)acridine
6.33 g of anhydrous potassium carbonate are added to a solution of 2.5 g of 3,6-diaminoacridine hydrochloride and 3.55 ml of 1-bromooctane in 50 ml of dimethyl sulfoxide, and the mixture is stirred at 80° C. for 48 hours. The cooled reaction mixture is subsequently poured onto ice, and the brown suspension is extracted with methylene chloride. The organic phase is washed with saturated aqueous NaCl solution and dried over sodium sulfate. After evaporation, the red-brown oil is chromatographed on silica gel using methylene chloride/methanol (9:1). After evaporation of the solvent, the residue is taken up in diethyl ether/methanol (10:1) and chromatographed on aluminium oxide. The eluate is taken up in methanol, 2N HCl is added, the mixture is extracted with diethyl ether, and the ether phase is dried and evaporated. The residue is dissolved in methylene chloride, n-hexane is added, and the red crystalline precipitate formed is filtered off. Further product can be isolated from the mother liquor after evaporation. The melting point of the title compound is 245° C. Absorption spectrum (ethanol): λmax =472 nm; ε=51 400.

reactant | potassium carbonate | 6.33 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,6-diaminoacridine hydrochloride | 2.5 g | Cl.NC=1C=CC2=CC3=CC=C(C=C3N=C2C1)N
reactant | 1-bromooctane | 3.55 ml | BrCCCCCCCC | C8H17Br
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 3,6-bis(n-octylamino)acridine | C(CCCCCCC)NC=1C=CC2=CC3=CC=C(C=C3N=C2C1)NCCCCCCCC | C29H43N3
